### PR TITLE
[Merged by Bors] - feat(Mathlib/FieldTheory/IsSepClosed) separably closed field and separable closure - basic definition

### PR DESCRIPTION
**Pull request by acmepjz**
Main changes

- Add `IsSepClosed` and basic properties.
- Add `IsSepClosure` and basic properties.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 1]
```diff
@@ -0,0 +1,174 @@
...
+class IsSepClosed : Prop where
+  splits_of_separable : ∀ p : k[X], p.Separable → (p.Splits <| RingHom.id k)
+
+/-- Every separable polynomial splits in the field extension `f : K →+* k` if `k` is
+separably closed.
+
+See also `IsSepClosed.splits_domain` for the case where `K` is separably closed.
+-/
+theorem IsSepClosed.splits_codomain {k K : Type _} [Field k] [IsSepClosed k] [Field K] {f : K →+* k}
+    (p : K[X]) (h : p.Separable) : p.Splits f := by
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/IsSepClosed.lean:51]:
```suggestion
/-- Every separable polynomial splits in the field extension `f : k →+* K` if `K` is
separably closed.

See also `IsSepClosed.splits_domain` for the case where `k` is separably closed.
-/
theorem IsSepClosed.splits_codomain {k K : Type _} [Field k] [Field K] [IsSepClosed K]  {f : k →+* K}
    (p : k[X]) (h : p.Separable) : p.Splits f := by
```
(see below for explanation)

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 2]
```diff
@@ -0,0 +1,174 @@
...
+  convert IsSepClosed.splits_of_separable (p.map f) (Separable.map h); simp [splits_map_iff]
+
+/-- Every separable polynomial splits in the field extension `f : K →+* k` if `K` is
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/IsSepClosed.lean:54]:
```suggestion
/-- Every separable polynomial splits in the field extension `f : k →+* K` if `k` is
```

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 3]
```diff
@@ -0,0 +1,174 @@
...
+separably closed.
+
+See also `IsSepClosed.splits_codomain` for the case where `k` is separably closed.
+-/
+theorem IsSepClosed.splits_domain {k K : Type _} [Field k] [IsSepClosed k] [Field K] {f : k →+* K}
+    (p : k[X]) (h : p.Separable) : p.Splits f :=
+  Polynomial.splits_of_splits_id _ <| IsSepClosed.splits_of_separable _ h
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/IsSepClosed.lean:61]: I personally find reading these two lemmas quite confusing because of the change in the type of `f`. In the first lemma you have `f : K →+* k` and in the second you have `f : k →+* K`. I think that nowadays in mathlib it's traditional to have one "style" for notation throughout a file (e.g. "K is always bigger than k") and then to stick to this style throughout the file. Otherwise the file can become quite confusing to read. I've suggested a change to the first lemma which I think sticks to this style.

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 4]
```diff
@@ -0,0 +1,174 @@
...
+    ∃ x, IsRoot p x :=
+  exists_root_of_splits _ (IsSepClosed.splits_of_separable p hsep) hp
+
+theorem exists_pow_nat_eq [IsSepClosed k] (x : k) {n : ℕ} (hn : (n : k) ≠ 0) : ∃ z, z ^ n = x := by
+  have hn' : 0 < n := Nat.pos_of_ne_zero <| fun h => by
+    rw [h, Nat.cast_zero] at hn
+    exact hn rfl
+  have : degree (X ^ n - C x) ≠ 0 := by
+    rw [degree_X_pow_sub_C hn' x]
+    exact ne_of_gt (WithBot.coe_lt_coe.2 hn')
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/IsSepClosed.lean:77]:
```suggestion
    exact (WithBot.coe_lt_coe.2 hn').ne'
```
You can use Lean's dot notation here.

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 5]
```diff
@@ -0,0 +1,174 @@
...
+  by_cases hx : x = 0
+  · exact ⟨0, by rw [hx, pow_eq_zero_iff hn']⟩
+  · obtain ⟨z, hz⟩ := exists_root _ this <| separable_X_pow_sub_C x hn hx
+    use z
+    simp only [eval_C, eval_X, eval_pow, eval_sub, IsRoot.def] at hz
+    exact sub_eq_zero.1 hz
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/IsSepClosed.lean:83]:
```suggestion
    simpa [eval_C, eval_X, eval_pow, eval_sub, IsRoot.def, sub_eq_zero] using hz
```
If `simp` gets you to a point where the answer is `exact`, then `simpa` can often be used instead.

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 6]
```diff
@@ -0,0 +1,174 @@
...
+  separable : IsSeparable R K
+
+theorem isSepClosure_iff (K : Type v) [Field K] [Algebra k K] :
+    IsSepClosure k K ↔ IsSepClosed K ∧ IsSeparable k K :=
+  ⟨fun h => ⟨h.1, h.2⟩, fun h => ⟨h.1, h.2⟩⟩
+
+instance (priority := 100) IsSepClosure.normal (R K : Type _) [Field R] [Field K] [Algebra R K]
+    [IsSepClosure R K] : Normal R K :=
+  ⟨fun x => by apply IsIntegral.isAlgebraic; exact IsSepClosure.separable.isIntegral' x,
+    fun x => @IsSepClosed.splits_codomain _ _ _ (IsSepClosure.sep_closed R) _ _ _ (by
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/IsSepClosed.lean:172]:
```suggestion
    fun x => @IsSepClosed.splits_codomain _ _ _ _ (IsSepClosure.sep_closed R) _ _ (by
```
If you make my suggestion earlier then this implicit argument needs to be moved to a slightly different place.

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 7]
```diff
@@ -0,0 +1,174 @@
...
+    (hsep : p.Separable) : ∃ x : k, aeval x p = 0 :=
+  exists_eval₂_eq_zero_of_injective (algebraMap R k) hinj p hp hsep
+
+theorem exists_aeval_eq_zero {R : Type _} [Field R] [IsSepClosed k] [Algebra R k] (p : R[X])
+    (hp : p.degree ≠ 0) (hsep : p.Separable) : ∃ x : k, aeval x p = 0 :=
+  exists_eval₂_eq_zero (algebraMap R k) p hp hsep
+
+theorem of_exists_root (H : ∀ p : k[X], p.Monic → Irreducible p → Separable p → ∃ x, p.eval x = 0) :
+    IsSepClosed k := by
+  refine ⟨fun p ↦ (fun hsep ↦ Or.inr ?_)⟩
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/IsSepClosed.lean:121]:
```suggestion
  refine ⟨fun p hsep ↦ Or.inr ?_⟩
```
We can just intro them both at once.

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 8]
```diff
@@ -0,0 +1,174 @@
...
+  exact degree_mul_leadingCoeff_inv q hq.ne_zero ▸ degree_eq_one_of_irreducible_of_root hirr' hx
+
+theorem degree_eq_one_of_irreducible [IsSepClosed k] {p : k[X]}
+    (hp : Irreducible p) (hsep : p.Separable) : p.degree = 1 :=
+  degree_eq_one_of_irreducible_of_splits hp (IsSepClosed.splits_codomain p hsep)
+
+theorem algebraMap_surjective_of_isIntegral {k K : Type _} [Field k] [Ring K] [IsDomain K]
+    [hk : IsSepClosed k] [Algebra k K] [IsSeparable k K] (hf : Algebra.IsIntegral k K) :
+    Function.Surjective (algebraMap k K) := by
+  refine' fun x => ⟨-(minpoly k x).coeff 0, _⟩
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/IsSepClosed.lean:142]:
```suggestion
  refine fun x => ⟨-(minpoly k x).coeff 0, ?_⟩
```
My instinct is to avoid the primed tactics where possible; really I think they were only there to make the port easier (`refine'` is Lean 3 `refine`).

**Review by kbuzzard — APPROVED** [review]
This looks great to me! Thank you very much! I've left a few comments.

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 9]
```diff
@@ -0,0 +1,174 @@
...
+and prove some of their properties.
+
+## Main Definitions
+
+- `IsSepClosed k` is the typeclass saying `k` is a separably closed field, i.e. every separable
+polynomial in `k` splits.
+
+- `IsSepClosure R K` is the typeclass saying `K` is a separable closure of `R`, where `R` is a
+  commutative ring. This means that the map from `R` to `K` is injective, and `K` is
+  separably closed and separable over `R`
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/IsSepClosed.lean:21]: I think the concept "separable over a commutative ring R" itself is quite dangerous. In mathlib4 the definition of `IsSeparable R K` require that all element of `K` is integral over `R`. So I think your mathematical question should be true (by considering `Frac(R)` in `K`).

However there are another definition of separable algebra https://en.wikipedia.org/wiki/Separable_algebra which claims to be the generalization of separable field extension. Using this definition I think `Q` is a separable `Z` algebra, while it's not integral over `Z`. So maybe we should stick on fields when talking about separable extension.

**Comment by kbuzzard** [comment]
This PR is already nearly 200 lines long -- don't add any more stuff to it! It looks ready to go to me; do future work in a different PR.

**Comment by acmepjz** [comment]
Sure, let me clean it up later today.

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 10]
```diff
@@ -0,0 +1,184 @@
...
+
+- `IsSepClosed.equiv` is a proof that any two separable closures of the
+  same field are isomorphic.
+
+- If `K` is a separably closed field (or algebraically closed field) containing `k`, then all
+  elements of `K` which are separable over `k` form a separable closure of `k`.
+
+- Using above result, construct separable closure as a subfield of algebraic closure.
+
+- If `k` is a perefect field, then its separable closure coincide with its algebraic closure.
```
Comment (jcommelin) [inline Mathlib/FieldTheory/IsSepClosed.lean:39]:
```suggestion
- If `k` is a perfect field, then its separable closure coincides with its algebraic closure.
```

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 11]
```diff
@@ -0,0 +1,184 @@
...
+- `IsSepClosed.lift` is a map from a separable extension `L` of `k`, into any separably
+  closed extension of `k`.
+
+- `IsSepClosed.equiv` is a proof that any two separable closures of the
+  same field are isomorphic.
+
+- If `K` is a separably closed field (or algebraically closed field) containing `k`, then all
+  elements of `K` which are separable over `k` form a separable closure of `k`.
+
+- Using above result, construct separable closure as a subfield of algebraic closure.
```
Comment (jcommelin) [inline Mathlib/FieldTheory/IsSepClosed.lean:37]:
```suggestion
- Using the above result, construct a separable closure as a subfield of an algebraic closure.
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
